US07405236B2
b] 5-(3-Trifluoromethoxy-phenyl)-pent-4-ynoic acid
To a solution of 5-(3-trifluoromethoxy-phenyl)-pent-4-ynoic acid benzyl ester (500 mg, 1.4 mmol) in THF/methanol 2/1 (13.5 ml) was added 1 N aqueous LiOH solution (8.6 ml). The reaction mixture was stirred for 2 h at ambient temperature and concentrated under reduced pressure. The residue was dissolved in 1 N NaOH/ice water 1/1 and ethyl acetate and the layers were separated. The aqueous layer was brought to pH 1 with 1 N HCl and extracted two times with ethyl acetate. The combined extracts were washed with ice water/brine 1/1, dried over sodium sulfate and the solvent was evaporated in vacuo to give the title compound (370 mg, 1.4 mmol, quant.) as colorless crystals.

reactant | 5-(3-trifluoromethoxy-phenyl)-pent-4-ynoic acid benzyl ester | 1.4 mmol, 500 mg | C(C1=CC=CC=C1)OC(CCC#CC1=CC(=CC=C1)OC(F)(F)F)=O | C19H15F3O3
reactant | LiOH | 1 N, 8.6 ml | [Li+].[OH-]
solvent | THF methanol | 13.5 ml | C1CCOC1.CO
product | 5-(3-Trifluoromethoxy-phenyl)-pent-4-ynoic acid | 1.4 mmol, 370 mg | FC(OC=1C=C(C=CC1)C#CCCC(=O)O)(F)F | C12H9F3O3
